US04567179
Pirbuterol
Under nitrogen, pirbuterol dihydrochloride (3.0 g., 0.0096 mol) was dissolved in 10 ml. CH3OH. KOH (85%, 1.3 g., 0.0197 mol) in 30 ml. of CH3OH was added dropwise over 10 minutes. After stirring 30 minutes, precipitated KCl (1.25 g.) was removed by filtration and the mother liquor evaporated to a white foam, 2.56 g. The latter was taken up in 20 ml. 1:1 acetone:CH3OH and allowed to stand 18 hours. Additional KCl (0.09 g.) was recovered by filtration and the mother liquor evaporated in vacuo to yield title product, dried under high vacuum, 2.35 g.

reactant | pirbuterol dihydrochloride | 0.0096 mol, 3.0 g | CC(C)(C)NCC(C1=NC(=C(C=C1)O)CO)O.Cl.Cl
reactant | KOH | 0.0197 mol, 1.3 g | [OH-].[K+]
solvent | CH3OH | CO | CH4O
product | Pirbuterol | CC(C)(C)NCC(C=1C=CC(=C(N1)CO)O)O | C12H20N2O3
